US08048899B2
The crude 1,3-benzothiazol-6-sulfinic acid sodium salt (1.1 g, 4.97 mmol) is suspended in DMF (15 mL). Pyridine (0.33 mL) and ethyl α-bromoisobutyrate (0.61 mL) are added. The reaction is stirred at 50° C. under nitrogen for 2 h. The reaction mixture is cooled to room temperature and the solvent is removed under reduced pressure. The residue is dissolved in ethyl acetate (20 mL) and washed with 2M aqueous HCl solution (20 mL). The acidic aqueous layer is back-extracted with ethyl acetate (2×20 mL). The combined organic extracts are washed with brine (20 mL) and dried over Na2SO4. Filtration, concentration under reduced pressure, followed by column chromatography of the residue (silica, eluent DCM, 30-40% ethyl acetate) afforded 0.85 g of 2-(benzothiazole-6-sulfonyl)-2-methyl-propionic acid ethyl ester. Yield: 66%, ES-MS: m/z 314 [M+H]; 1H NMR (250 MHz, CHLOROFORM-d) δ ppm 1.19 (3H, t, J=7.16 Hz), 1.67 (6H, s), 4.15 (2H, q, J=7.13 Hz), 7.99 (1H, dd, J=8.68, 1.79 Hz), 8.28 (1H, d, J=8.68 Hz), 8.54 (1H, d, J=1.48 Hz), 9.26 (1H, s);

reactant | 1,3-benzothiazol-6-sulfinic acid sodium salt | 4.97 mmol, 1.1 g | [Na+].S1C=NC2=C1C=C(C=C2)S(=O)[O-]
reactant | Pyridine | 0.33 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl α-bromoisobutyrate | 0.61 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(benzothiazole-6-sulfonyl)-2-methyl-propionic acid ethyl ester | 0.85 g, Yield: 66% | C(C)OC(C(C)(C)S(=O)(=O)C1=CC2=C(N=CS2)C=C1)=O | C13H15NO4S2
